US08912200B2
Step 1: (4-Methylpiperazin-1-yl){4-[(trimethylsilyl)ethynyl]phenyl}methanone
1-Methylpiperazine (0.66 mL, 6.0 mmol), HOBt (0.84 g, 6.2 mmol) and EDCl (1.15 g, 6.0 mmol) were added to a solution of 4-[(trimethylsilyl)ethynyl]benzoic acid (1.0 g, 4.6 mmol) in dry DCM (45 mL). The mixture was stirred at room temperature for 4 h, washed with saturated aqueous sodium bicarbonate (30 mL), brine, dried over sodium sulphate, and evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH 96/4) to afford the title compound (1.29 g, 93%).

reactant | 1-Methylpiperazine | 6.0 mmol, 0.66 mL | CN1CCNCC1 | C5H12N2
reactant | HOBt | 6.2 mmol, 0.84 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 6.0 mmol, 1.15 g | CCN=C=NCCCN(C)C.Cl
reactant | 4-[(trimethylsilyl)ethynyl]benzoic acid | 4.6 mmol, 1.0 g | C[Si](C)(C)C#CC1=CC=C(C(=O)O)C=C1 | C12H14O2Si
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | (4-Methylpiperazin-1-yl){4-[(trimethylsilyl)ethynyl]phenyl}methanone | 1.29 g, 93% | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C | C17H24N2OSi
